US04207234
3-Phthalimido-1-(α-methoxycarbonylbenzyl)-2-azetidinone (0.36 g.) and N,N-dimethyl-1,3-propanediamine (0.22 g.) were added to a mixture of methanol (5 ml.) and chloroform (5 ml.), whereafter the mixture was stirred at ambient temperature for 18 hours. The reaction mixture was evaporated to dryness under reduced pressure, and ethyl acetate (20 ml.) and water were poured into the residue obtained. The ethyl acetate layer was separated out from the mixture and the remaining aqueous layer was further extracted with ethyl acetate (10 ml.). The combined ethyl acetate solution was extracted with 1 N hydrochloric acid (3 ml.) and water (10 ml.) respectively. The combined aqueous extracts were adjusted to pH 8.6 with an aqueous sodium bicarbonate. The aqueous solution was extracted with two 10 ml. portions of ethyl acetate. The combined extracts were washed with saturated aqueous sodium chloride and then dried over magnesium sulfate. The solvent was removed by distillation from the solution under reduced pressure to give oily 3-amino-1-(α-methoxycarbonylbenzyl)-2-azetidinone (0.13 g.).

reactant | 3-Phthalimido-1-(α-methoxycarbonylbenzyl)-2-azetidinone | 0.36 g | C1(C=2C(C(N1C1C(N(C1)C(C1=CC=CC=C1)C(=O)OC)=O)=O)=CC=CC2)=O | C20H16N2O5
reactant | N,N-dimethyl-1,3-propanediamine | 0.22 g | CN(CCCN)C | C5H14N2
reactant | methanol | 5 ml | CO | CH4O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-amino-1-(α-methoxycarbonylbenzyl)-2-azetidinone | 0.13 g | NC1C(N(C1)C(C1=CC=CC=C1)C(=O)OC)=O | C12H14N2O3
